.title KiCad schematic
U3 __U3
C1 +3V3 GND C
J1 __J1
C3 +5V GND 10u
U1 __U1
C9 /5v_monitor GND C
R7 /5v_monitor GND R
R2 +5V /5v_monitor R
R8 +3V3 /3v3_monitor R
C2 +3V3 GND 10u
R11 /3v3_monitor GND R
C11 /3v3_monitor GND C
R9 +3V3 /esp32s3mini1/HW_VER 2k
R10 /esp32s3mini1/HW_VER GND 1k
C10 /esp32s3mini1/HW_VER GND 100n
P1 __P1
C4 +5V GND 10u
R1 Net-_P1-CC_ GND 5.1k
.end
